US06262040B1
1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid(2-pyridin-4-yl-ethyl)-amide
This compound was prepared according to the method of Example 15, using 78 mg (0.282 mmol, 1.0 equiv) 1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl chloride and 36 μL (0.295 mmol, 1.05 equiv) 4-(2-aminoethyl)pyridine as starting materials, to give 35 mg (35%) of white crystals: mp 123-126° C.; Anal. calcd for C22H26N4O.¼H2O: C, 72.01; H, 7.28; N, 15.27. Found: C, 71.77; H, 7.45; N, 15.23.

reactant | 1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl chloride | 0.282 mmol, 78 mg, 1.0 equiv | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(=O)Cl)CC | C15H17ClN2O
reactant | 4-(2-aminoethyl)pyridine | 0.295 mmol, 36 μL, 1.05 equiv | NCCC1=CC=NC=C1 | C7H10N2
product | 1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid(2-pyridin-4-yl-ethyl)-amide | 35 mg, 35% | N1=CC=C(C=C1)CCNC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C22H26N4O
